US07745641B2
In a similar manner to Example 20, 7-[1-(tert-butoxycarbonyl)-5-carboxyindol-2-yl]-4-chloroisoindolinone (37.8 mg, 0.0886 mmol) was dissolved in DMF (1 mL), and the solution was treated with EDCI (34 mg, 0.18 mmol), HOBT monohydrate (12 mg, 0.089 mmol) and 1-(tert-butoxycarbonyl)piperazine (66 mg, 0.35 mmol). The mixture was added with water and the precipitated solid was collected by filtration, washed with water and then dried under reduced pressure to obtain 4-chloro-7-(1-(tert-butoxycarbonyl)-5-[-4-(tert-butoxycarbonyl)piperazin-1-ylcarbonyl]indol-2-yl)isoindolinone (43.5 mg, yield 83%).

reactant | 7-[1-(tert-butoxycarbonyl)-5-carboxyindol-2-yl]-4-chloroisoindolinone | 0.0886 mmol, 37.8 mg | C(C)(C)(C)OC(=O)N1C(=CC2=CC(=CC=C12)C(=O)O)C=1C=CC(=C2CNC(C12)=O)Cl | C22H19ClN2O5
reactant | EDCI | 0.18 mmol, 34 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT monohydrate | 0.089 mmol, 12 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | 1-(tert-butoxycarbonyl)piperazine | 0.35 mmol, 66 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-chloro-7-(1-(tert-butoxycarbonyl)-5-[-4-(tert-butoxycarbonyl)piperazin-1-ylcarbonyl]indol-2-yl)isoindolinone | 43.5 mg, yield 83% | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C31H35ClN4O6
